US04788206
In the manner described in Example 99, (E,E)-5-(4-methoxyphenyl)-5-(3-pyridinyl)-2,4-pentadienoic acid methyl ester (0.295 g) was saponified in a refluxing mixture of methanol (1.5 mL) and 1N NaOH 1.5 mL). After the cooled reaction was neutralized with 1N HCI (1.5 mL), the crude acid was filtered off and crystallized from methanol to afford 0.235 g of (E,E)-5-(4-methoxyphenyl)-5-(3-pyridinyl)-2,4-pentadienoic acid as its 0.33 molar hydrate, mp 173°-175° C. Anal. Calcd for C17H15NO3 0.33 H2O: C, 71.08: H, 5.49:, N, 4.88. Found: C, 71.01: H, 5.59: N, 4.85.

reactant | (E,E)-5-(4-methoxyphenyl)-5-(3-pyridinyl)-2,4-pentadienoic acid methyl ester | 0.295 g | COC(\C=C\C=C(\C=1C=NC=CC1)/C1=CC=C(C=C1)OC)=O | C18H17NO3
reactant | NaOH | 1N, 1.5 mL | [OH-].[Na+]
solvent | methanol | 1.5 mL | CO | CH4O
product | (E,E)-5-(4-methoxyphenyl)-5-(3-pyridinyl)-2,4-pentadienoic acid | 0.235 g | COC1=CC=C(C=C1)\C(=C/C=C/C(=O)O)\C=1C=NC=CC1 | C17H15NO3
